data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][C:21]1(C2C=C(CC3C4C(C4(C)C)CC(C2(C3=O)CC1=C)C)COCC5=CC=C(C=C5)OC)[O:22][I+:23]6(C7=C(C=CC=C7)C(=O)O6)OC(=O)C.CC(=O)[O-:10].CC(=O)O>>[H:20][O:10]C(=O)C.CC1CC2C(C2(C)C)C3CC(=CC4C1(C3=O)CC(=C)[C:21]4=[O:22])COCC5=CC=C(C=C5)OC.CC(=O)O[I:23]1C2=C(C=CC=C2)C(=O)O1.CC(=O)O 10=20;22,23=23;20,21=21,22
[H:20][O:21][C+:22](C)C.[OH-:10]>>[H:20][OH:10].C[C:22](=[O:21])C 10=20;20,21=21,22
C[CH:20]=[O+:21]C.[I-:10]>>C[CH:20]([O:21]C)[I:10] 10=20;20,21=21
C1=CC=C([CH:11]=[CH:10]1)C(Cl)(Cl)Cl.[N+:20](=O)=[O:21]>>C1=C[CH:10]([CH+:11]C(=C1)C(Cl)(Cl)Cl)[N+:20](=O)[O-:21] 10,11=10,20;20,21=21
[H:20][CH:21]([C:22](=[O:23])C(C)Br)Br.[OH-:10]>>[H:20][OH:10].CC([C:22](=[CH:21]Br)[O-:23])Br 10=20;22,23=23;20,21=21,22
[H:20][O:21]C(=O)C.C1=CC2=C(C=C1)C=C3C(=C2)C4=NC5=C(C=CC=C5)[NH2+]C34[O-:10].CO.O>>[H:20][O:10]C12C3=CC4=C(C=CC=C4)C=C3C1=NC5=C([NH2+]2)C=CC=C5.CC(=O)[O-:21].CO.O 10=20;20,21=21
[CH:10]1=[CH:11]OC(=C1)[N+](=O)[O-].[Br:20][Br:21]>>C1=C(O[CH+:11][CH:10]1[Br:20])[N+](=O)[O-].[Br-:21] 10,11=10,20;20,21=21
[H:20][O+:21](CCO)C1(CCC2C1(CCC3C2CCC4C3(CCC(C4)O)C)C)O.CS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)C.CC12CCC(CC1CCC3C2CCC4(C3CCC4(O)[O:21]CCO)C)O 10=20;20,21=21
[B:20]1(C2CCCC1CCC2)OC(CCC3CCCCC3=O)C(=C=C)[Si](C)(C)C.[OH:10][Na]>>[B-:20]1(C2CCCC1CCC2)([OH+:10][Na])OC(CCC3CCCCC3=O)C(=C=C)[Si](C)(C)C 10=20,
[H:20][CH2:21][CH+:22]C=C.OP(=O)(O)[O-:10]>>C=C[CH:22]=[CH2:21].[H:20][O:10]P(=O)(O)O 10=20;20,21=21,22
COC1=CC=C(C=C1)[CH2:10][Br+:11][Al-](Cl)(Cl)Cl>>COC1=CC=C(C=C1)[CH2+:10].[Al-](Cl)(Cl)(Cl)[Br:11] 10,11=11
CC12CC[C:20](=[OH+:21])CC1CCC2=O.C(CO)[OH:10].C(=O)(C(=O)[O-])O>>CC12CC[C:20](CC1CCC2=O)([OH:21])[OH+:10]CCO.C(=O)(C(=O)[O-])O 10=20;20,21=21
[H:20][C:21]1(C=CC=C[CH+:22]1)C(C)C.[F-:10]>>[H:20][F:10].CC(C)[C:21]1=[CH:22]C=CC=C1 10=20;20,21=21,22
COC1=C(C2=C(CC3C4C2(CCN3CC5CCC5)[CH:11]=[C:10]([CH+:20]C4)O)C=C1)O.CO.CS(=O)(=O)O.CS(=O)(=O)[O-]>>COC1=C(C2=C(CC3C4C2(CCN3CC5CCC5)[CH+:11][C:10](=[CH:20]C4)O)C=C1)O.CO.CS(=O)(=O)O.CS(=O)(=O)[O-] 10,11=10,20
[Li:10][O+:11](C)CC>>[Li+:10].CC[O:11]C 10,11=11
CC(=O)C1=CO[CH:10]=[CH:11]1.[Br:20][Br:21]>>CC(=O)C1=CO[CH:10]([CH+:11]1)[Br:20].[Br-:21] 10,11=10,20;20,21=21
CC(C)[C:20](=[O:21])OC(C)C.[OH-:10]>>CC(C)[C:20]([OH:10])([O-:21])OC(C)C 10=20;20,21=21
[B-]1(OC2=C(O1)C=CC=C2)(C(=[C+:20]CC)C3=C(C=CC=C3)C(=[O:10])OC)Cl>>[B-]1(OC2=C(O1)C=CC=C2)(C3=[C:20]([O+:10]=C(C4=C3C=CC=C4)OC)CC)Cl 10=20,
C[C:20](=[NH2+:21])C.[C-:10]#N>>C[C:20](C)([C:10]#N)[NH2:21] 10=20;20,21=21
CC[C:20]1(C([OH+:21]1)C)C.[OH2:10]>>CC[C:20](C)(C(C)[OH:21])[OH2+:10] 10=20;20,21=21
[H:20][O+:21]=CC(C)C.[OH2:10]>>[H:20][OH2+:10].CC(C)C=[O:21] 10=20;20,21=21
[B:20](OCCCC)(OCCCC)OCCCC.C=C[CH2:10][Mg:11]Br>>[B-:20]([CH2:10]C=C)(OCCCC)(OCCCC)OCCCC.[Mg+:11]Br 10,11=10,20
[H:20][OH+:21]C(CC(=O)OCC)(O)OCC.[OH2:10]>>CCOC(=O)CC(O)([OH:21])OCC.[H:20][OH2+:10] 10=20;20,21=21
[H:20][Cl:21].CC1(CCCC2(C1CCCC23OCC[O:10]3)C)C(=O)OC.C1CCOC1.O>>[H:20][O+:10]1CCOC12CCCC3C2(CCCC3(C)C(=O)OC)C.[Cl-:21].C1CCOC1.O 10=20;20,21=21
CC(C)(C)[CH:20]1C[Br+:21]1.[OH2:10]>>CC(C)(C)[CH:20](C[Br:21])[OH2+:10] 10=20;20,21=21
[B-:11]1(C2CCCC1CCC2)([CH:10]3CCCCC3C)[O:20][OH:21].[OH-]>>[B:11]1(C2CCCC1CCC2)[O:20][CH:10]3CCCCC3C.[OH-:21].[OH-] 10,11=10,20;20,21=21
CC1CCCCC1O[S:20](=O)(C2=CC=C(C=C2)C)([O-:10])[Cl:21].C1=CC=[NH+]C=C1>>CC1CCCCC1O[S:20](=O)(=[O:10])C2=CC=C(C=C2)C.[Cl-:21].C1=CC=[NH+]C=C1 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.C1CCOC(C1)(O)[OH:10]>>[H:20][OH+:10]C1(CCCCO1)O.OS(=O)(=O)[O-:21] 10=20;20,21=21
C[S+](=O)(C)[CH2:21][CH2:20][CH:10]=[CH:11][O-:12]>>C[S+](=O)(C)[CH2-:21].[CH2:20]=[CH:10][CH:11]=[O:12] 10,11=10,20;20,21=21;12=11
CC(=O)[O:21][C:20](C)(O)[OH:10]>>C[C:20](=[OH+:10])O.CC(=O)[O-:21] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.CCNC(CCC(=O)OC(=O)C)([O-:10])Cl>>[H:20][O:10]C(CCC(=O)OC(=O)C)(NCC)Cl.OS(=O)(=O)[O-:21] 10=20;20,21=21
[B:20](Br)(Br)Br.CN1CCC23C4C(=O)CCC2(C1CC5=C3C(=C(C=C5)[O:10]C)O4)O>>[B-:20]([O+:10](C)C1=C2C3=C(CC4C5(C3(CCN4C)C(O2)C(=O)CC5)O)C=C1)(Br)(Br)Br 10=20,
[B-]1(OC(C(O1)(C)C)(C)C)([O:12][C:11](=[CH:10]C)C)[O+:21]=[CH:20]C2=CC=CC=C2>>[B-]12([O:21][CH:20]([CH:10]([C:11](=[O+:12]1)C)C)C3=CC=CC=C3)OC(C(O2)(C)C)(C)C 10,11=10,20;20,21=21;12=11
CC(C)O[Al-:10]1(OC2CC3(C4(CC5C(CC4C2=[O+:11]1)OC(O5)(C)C)C)OCCO3)OC(C)C.CC(C)O>>CC(C)O[Al:10](OC1CC2(C3(CC4C(CC3C1=[O:11])OC(O4)(C)C)C)OCCO2)OC(C)C.CC(C)O 10,11=11
[H:20][O:21]CC.CC1(CCC(=O)C1)[O-:10]>>[H:20][O:10]C1(CCC(=O)C1)C.CC[O-:21] 10=20;20,21=21
[H:20][N:21]([C:22](=[O:23])C12CCCN1C(=O)C3=CC=CN3C2NC(=O)OCC4=CC=CC=C4)I(C5=CC=CC=C5)OC(=O)C(F)(F)F.C1=CC=[N:10]C=C1.C(=O)(C(F)(F)F)[O-]>>[H:20][N+:10]1=CC=CC=C1.C1CC2(C(N3C=CC=C3C(=O)N2C1)NC(=O)OCC4=CC=CC=C4)[C:22](=[N:21]I(C5=CC=CC=C5)OC(=O)C(F)(F)F)[O-:23].C(=O)(C(F)(F)F)[O-] 10=20;22,23=23;20,21=21,22
[H:20][N+:21]1=CC=CC=C1.CC12CCC3C(C1CCC2C(C)([OH:10])OCCO)CC=C4C3(CCC(C4)O)C.[Cl-]>>[H:20][OH+:10]C(C)(C1CCC2C1(CCC3C2CC=C4C3(CCC(C4)O)C)C)OCCO.C1=CC=[N:21]C=C1.[Cl-] 10=20;20,21=21
[H:20][CH2:21][C:22](=[O:23])NCC.CC[O-:10]>>[H:20][O:10]CC.CCN[C:22](=[CH2:21])[O-:23] 10=20;22,23=23;20,21=21,22
